US07687503B2
2-amino-2-oxoethyl 4-{6-[3-(trifluoromethyl)phenyl]-3-pyridyl}-1-piperazinecarboxylate
5.90 ml (41.40 mmol) of a solution of ammonia (7N) in methanol are added to a solution of 0.30 g (0.69 mmol) of 2-(ethyloxy)-2-oxoethyl 4-{6-[3-(trifluoromethyl)phenyl]-3-pyridyl}-1-piperazinecarboxylate, obtained in step 7.5. of Example 7, in 6 ml of a 1/1 mixture of methanol and tetrahydrofuran. Stirring is continued at room temperature for 22 hours. After concentrating under reduced pressure, the residue obtained is purified by chromatography on silica gel, eluting with a 96/4 mixture of dichloromethane and methanol, followed by washing with diisopropyl ether. 0.19 g of pure product is obtained in the form of a yellow solid.

reactant | ammonia | 7N | N | H3N
reactant | 2-(ethyloxy)-2-oxoethyl 4-{6-[3-(trifluoromethyl)phenyl]-3-pyridyl}-1-piperazinecarboxylate | 0.69 mmol, 0.30 g | FC(C=1C=C(C=CC1)C1=CC=C(C=N1)N1CCN(CC1)C(=O)OCC(=O)OCC)(F)F | C21H22F3N3O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-amino-2-oxoethyl 4-{6-[3-(trifluoromethyl)phenyl]-3-pyridyl}-1-piperazinecarboxylate | 0.19 g | FC(C=1C=C(C=CC1)C1=CC=C(C=N1)N1CCN(CC1)C(=O)OCC(=O)N)(F)F | C19H19F3N4O3
